### PR TITLE
[Merged by Bors] - feat: Properties of the Integral of `MulExpNegMulSq`

### PR DESCRIPTION
**Pull request by JakobStiefel**
Show convergence properties of the Integral of `MulExpNegMulSq` wrt finite measures, important for the proof of separation of finite measures by subalgebras of functions

---

- [x] depends on:  #19780
- [x] depends on: #20604

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by sgouezel** [comment]
The file `Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean` that you are introducing contains a bunch of results, in many directions and with a log of imports. It would probably be a good idea to have one basic file containing just the basic properties of the function (without any measure theory, say), and another file devoted to its properties wrt integration.

Do you think you could do such a split, and extract a PR just devoted to the first file, i.e., basic properties of the function? This would be easier and quicker to review -- in general, aiming for PRs of less than 200 lines if possible is a good idea, as reviewers will be more inclined to review it.

**Comment by JakobStiefel** [comment]
The file is now split up into one file containing the basic properties (PR #20604) and  another file containing results on integrals.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 1]
```diff
@@ -0,0 +1,254 @@
...
+import Mathlib.Analysis.SpecialFunctions.MulExpNegMulSq
+import Mathlib.Analysis.SpecialFunctions.Pow.Deriv
+import Mathlib.MeasureTheory.Integral.BoundedContinuousFunction
+import Mathlib.MeasureTheory.Integral.DominatedConvergence
+import Mathlib.MeasureTheory.Measure.RegularityCompacts
+import Mathlib.Topology.ContinuousMap.StoneWeierstrass
+
+/-!
+# Properties of the integral of `mulExpNegMulSq`
+The mapping `mulExpNegMulSq` can be used to transform a function `g : E → ℝ` into a bounded
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:15]:
```suggestion
# Properties of the integral of `mulExpNegMulSq`

The mapping `mulExpNegMulSq` can be used to transform a function `g : E → ℝ` into a bounded
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 2]
```diff
@@ -0,0 +1,254 @@
...
+function `mulExpNegMulSq ε ∘ g : E → ℝ = fun x => g x * Real.exp (-ε * g x * g x)`. This file
+contains results on the integral of `mulExpNegMulSq g ε` with respect to a finite measure `P`.
+## Lemmas
+- `tendsto_integral_mulExpNegMulSq_comp`: By the dominated convergence theorem and
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:19]:
```suggestion
contains results on the integral of `mulExpNegMulSq g ε` with respect to a finite measure `P`.

## Lemmas

- `tendsto_integral_mulExpNegMulSq_comp`: By the dominated convergence theorem and
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 3]
```diff
@@ -0,0 +1,254 @@
...
+  `mulExpNegMulSq_abs_le_norm`, the integral of `mulExpNegMulSq ε ∘ g` with respect to a
+  finite measure `P` converges to the integral of `g`, as `ε → 0`;
+- `tendsto_integral_one_plus_inv_mul`: The integral of `mulExpNegMulSq ε ∘ g` with
+  respect to a finite measure `P` can be approximated by the integral of the sequence approximating
+  the exponential function, `fun x => (g * (1 + (n : ℝ)⁻¹ • -(ε • g * g)) ^ n) x`. This allows to
+  transfer properties of a subalgebra of functions containing `g` to the function
+  `mulExpNegMulSq ε ∘ g`, see e.g. `integral_mulExpNegMulSq_comp_eq`.
+## Main Result
+`dist_integral_mulExpNegMulSq_comp_le`: For a subalgebra of functions `A`, if for any `g ∈ A` the
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:28]:
```suggestion
  `mulExpNegMulSq ε ∘ g`, see e.g. `integral_mulExpNegMulSq_comp_eq`.
 
## Main Result

`dist_integral_mulExpNegMulSq_comp_le`: For a subalgebra of functions `A`, if for any `g ∈ A` the
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 4]
```diff
@@ -0,0 +1,254 @@
...
+integral with respect to two finite measures `P, P'` coincide, then the difference of the integrals
+of `mulExpNegMulSq ε ∘ g` with respect to `P, P'` is bounded by `6 * sqrt ε`.
+This is a key ingredient in the proof of theorem `ext_of_forall_mem_subalgebra_integral_eq`,
+where it is shown that a subalgebra of functions that separates points separates finite measures.
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:32]: That theorem does not exist yet. Please reformulate that to indicate that it's future work (and turn it back into this form in the PR where you prove the theorem).

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 5]
```diff
@@ -0,0 +1,254 @@
...
+-/
+
+open MeasureTheory Real NNReal ENNReal BoundedContinuousFunction Filter
+
+open scoped Topology
+
+variable {E: Type*} [TopologicalSpace E] [MeasurableSpace E] [BorelSpace E]
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:39]:
```suggestion
variable {E : Type*} [TopologicalSpace E] [MeasurableSpace E] [BorelSpace E]
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 6]
```diff
@@ -0,0 +1,254 @@
...
+theorem integrable_mulExpNegMulSq_comp_restrict_compact {K : Set E} (hK : IsCompact K)
+    (hKmeas : MeasurableSet K) (g : C(E, ℝ)) {ε : ℝ} :
+    Integrable (fun x ↦ (mulExpNegMulSq ε ∘ g) x) (P.restrict K) :=
+  ContinuousOn.integrableOn_compact' hK hKmeas
+      (Continuous.continuousOn (continuous_mulExpNegMulSq.comp g.continuous))
+
+/--
+the integral of `mulExpNegMulSq ε ∘ g` with respect to a finite measure `P` converges to the
+integral of `g`, as `ε → 0` from above.
+-/
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:57]:
```suggestion
/-- The integral of `mulExpNegMulSq ε ∘ g` with respect to a finite measure `P` converges to the
integral of `g`, as `ε → 0` from above. -/
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 7]
```diff
@@ -0,0 +1,254 @@
...
+This is a key ingredient in the proof of theorem `ext_of_forall_mem_subalgebra_integral_eq`,
+where it is shown that a subalgebra of functions that separates points separates finite measures.
+-/
+
+open MeasureTheory Real NNReal ENNReal BoundedContinuousFunction Filter
+
+open scoped Topology
+
+variable {E: Type*} [TopologicalSpace E] [MeasurableSpace E] [BorelSpace E]
+    (P : Measure E) [IsFiniteMeasure P]
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:40]: Do you really want P explicit everywhere? It's probably better with `{P : Measure E}`.
Also you could add epsilon as an implicit variable here.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 8]
```diff
@@ -0,0 +1,254 @@
...
+
+theorem integrable_mulExpNegMulSq_comp (f : C(E, ℝ)) {ε : ℝ} (hε : ε > 0) :
+    Integrable (mulExpNegMulSq ε ∘ f) P := by
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:43]: It would be slightly better to replace the compositions everywhere with a more applied form, as those are the ones that appear naturally in goals:
```suggestion
    Integrable (fun x ↦ mulExpNegMulSq ε (f x)) P := by
```
Also you sometimes use `=>` and sometimes `↦`. Please pick one for the whole file. My preference goes to `↦` but the style guide is not strict about it.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 9]
```diff
@@ -0,0 +1,254 @@
...
+    apply integrable P
+      ⟨⟨mulExpNegMulSq ε ∘ f, continuous_mulExpNegMulSq.comp f.continuous⟩, ⟨2 * (sqrt ε)⁻¹, _⟩⟩
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:45]: The continuity proof could be shortened to this:
```suggestion
      ⟨⟨mulExpNegMulSq ε ∘ f, f.continuous.mulExpNegMulSq⟩, ⟨2 * (sqrt ε)⁻¹, _⟩⟩
```
If `fun_prop` attributes are placed correctly on various lemmas, that could also possibly be replaced by `by fun_prop`.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 10]
```diff
@@ -0,0 +1,254 @@
...
+    exact fun x y => dist_mulExpNegMulSq_le_two_mul_sqrt hε (f x) (f y)
+
+theorem integrable_mulExpNegMulSq_comp_restrict_compact {K : Set E} (hK : IsCompact K)
+    (hKmeas : MeasurableSet K) (g : C(E, ℝ)) {ε : ℝ} :
+    Integrable (fun x ↦ (mulExpNegMulSq ε ∘ g) x) (P.restrict K) :=
+  ContinuousOn.integrableOn_compact' hK hKmeas
+      (Continuous.continuousOn (continuous_mulExpNegMulSq.comp g.continuous))
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:52]:
```suggestion
      g.continuous.mulExpNegMulSq.continuousOn
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 11]
```diff
@@ -0,0 +1,254 @@
...
+    (nhdsWithin 0 (Set.Ioi 0)) (𝓝 (∫ x, g x ∂P)) := by
+  apply tendsto_of_seq_tendsto
+  intro u hu
+  obtain ⟨N, hupos⟩ := eventually_atTop.mp (tendsto_nhdsWithin_iff.mp hu).2
+  apply FiniteMeasure.tendstoIntegral_of_eventually_boundedPointwise ?h_meas ?h_bound ?h_lim
+  · apply Eventually.of_forall (fun n => StronglyMeasurable.aestronglyMeasurable
+      (Continuous.stronglyMeasurable (continuous_mulExpNegMulSq.comp g.continuous)))
+  · use norm g
+    rw [eventually_atTop]
+    use N; intro n hn
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:69]:
```suggestion
    use N
    intro n hn
```
One tactic per line

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 12]
```diff
@@ -0,0 +1,254 @@
...
+      (fun _ => abs_mulExpNegMulSq_comp_le_norm g (le_of_lt (Set.mem_Ioi.mp (hupos n hn))))
+  · exact Eventually.of_forall (fun _ => (tendsto_nhdsWithin_of_tendsto_nhds
+        tendsto_mulExpNegMulSq).comp hu)
+
+/--
+The integral of `mulExpNegMulSq ε ∘ g` with respect to a finite measure `P` can be
+approximated by the integral of the sequence approximating the exponential function.
+-/
+theorem tendsto_integral_one_plus_inv_mul (g : E →ᵇ ℝ)
+    {ε : ℝ} (hε : ε > 0) :
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:80]:
```suggestion
    {ε : ℝ} (hε : 0 < ε) :
```
Please use `<` instead of `>` everywhere. The library standardized on `<`.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 13]
```diff
@@ -0,0 +1,254 @@
...
+    apply Tendsto.const_mul (g x)
+    simp [mul_assoc, inv_mul_eq_div, ← neg_div]
+    exact tendsto_one_plus_div_pow_exp (-(ε * (g x * g x)))
+
+theorem integral_mulExpNegMulSq_comp_eq {P' : Measure E} [IsFiniteMeasure P']
+    {A : Subalgebra ℝ C(E, ℝ)} {ε : ℝ} (hε : ε > 0)
+    (hbound : ∀ g ∈ A, ∃ C, ∀ x y : E, dist (g x) (g y) ≤ C)
+    (heq : ∀ g ∈ A, ∫ x, (g : E → ℝ) x ∂P = ∫ x, (g : E → ℝ) x ∂P') :
+    ∀ (g : A), ∫ x, (mulExpNegMulSq ε ∘ g) x ∂P
+        = ∫ x, (mulExpNegMulSq ε ∘ g) x ∂P' := by
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:122]: The argument `g` should be before the colon:
```suggestion
    (heq : ∀ g ∈ A, ∫ x, (g : E → ℝ) x ∂P = ∫ x, (g : E → ℝ) x ∂P') (g : A) :
    ∫ x, (mulExpNegMulSq ε ∘ g) x ∂P
        = ∫ x, (mulExpNegMulSq ε ∘ g) x ∂P' := by
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 14]
```diff
@@ -0,0 +1,254 @@
...
+
+variable {E: Type*} [MeasurableSpace E] [PseudoEMetricSpace E] [BorelSpace E] [CompleteSpace E]
+    [SecondCountableTopology E]
+    {P P' : Measure E} [IsFiniteMeasure P] [IsFiniteMeasure P']
+
+/--
+If for any `g ∈ A` the integrals with respect to two finite measures `P, P'` coincide, then the
+difference of the integrals of `mulExpNegMulSq ε ∘ g` with respect to `P, P'` is bounded by
+`6 * sqrt ε`.
+-/
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:165]:
```suggestion
/-- If for any `g ∈ A` the integrals with respect to two finite measures `P, P'` coincide, then the
difference of the integrals of `mulExpNegMulSq ε ∘ g` with respect to `P, P'` is bounded by
`6 * sqrt ε`. -/
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 15]
```diff
@@ -0,0 +1,254 @@
...
+      |∫ x, (mulExpNegMulSq ε ∘ f) x ∂P - ∫ x, (mulExpNegMulSq ε ∘ f) x ∂P'|
+    ≤ |∫ x, (mulExpNegMulSq ε ∘ f) x ∂P - ∫ x in K, (mulExpNegMulSq ε ∘ f) x ∂P|
+    + |∫ x in K, (mulExpNegMulSq ε ∘ f) x ∂P - ∫ x in K, (mulExpNegMulSq ε ∘ g) x ∂P|
+    + |∫ x in K, (mulExpNegMulSq ε ∘ g) x ∂P - ∫ x, (mulExpNegMulSq ε ∘ g) x ∂P|
+    + |∫ x, (mulExpNegMulSq ε ∘ g) x ∂P - ∫ x, (mulExpNegMulSq ε ∘ g) x ∂P'|
+    + |∫ x, (mulExpNegMulSq ε ∘ g) x ∂P' - ∫ x in K, (mulExpNegMulSq ε ∘ g) x ∂P'|
+    + |∫ x in K, (mulExpNegMulSq ε ∘ g) x ∂P' - ∫ x in K, (mulExpNegMulSq ε ∘ f) x ∂P'|
+    + |∫ x in K, (mulExpNegMulSq ε ∘ f) x ∂P' - ∫ x, (mulExpNegMulSq ε ∘ f) x ∂P'| :=
+      @dist_triangle8 ℝ _ _ _ _ _ _ _ _ _
+    _ ≤ 6 * sqrt ε := by linarith
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:254]: You should align the ≤ signs in that calc block. Something like this for example:
```suggestion
      |∫ x, (mulExpNegMulSq ε ∘ f) x ∂P - ∫ x, (mulExpNegMulSq ε ∘ f) x ∂P'|
    ≤ |∫ x, (mulExpNegMulSq ε ∘ f) x ∂P - ∫ x in K, (mulExpNegMulSq ε ∘ f) x ∂P|
      + |∫ x in K, (mulExpNegMulSq ε ∘ f) x ∂P - ∫ x in K, (mulExpNegMulSq ε ∘ g) x ∂P|
      + |∫ x in K, (mulExpNegMulSq ε ∘ g) x ∂P - ∫ x, (mulExpNegMulSq ε ∘ g) x ∂P|
      + |∫ x, (mulExpNegMulSq ε ∘ g) x ∂P - ∫ x, (mulExpNegMulSq ε ∘ g) x ∂P'|
      + |∫ x, (mulExpNegMulSq ε ∘ g) x ∂P' - ∫ x in K, (mulExpNegMulSq ε ∘ g) x ∂P'|
      + |∫ x in K, (mulExpNegMulSq ε ∘ g) x ∂P' - ∫ x in K, (mulExpNegMulSq ε ∘ f) x ∂P'|
      + |∫ x in K, (mulExpNegMulSq ε ∘ f) x ∂P' - ∫ x, (mulExpNegMulSq ε ∘ f) x ∂P'| :=
        @dist_triangle8 ℝ _ _ _ _ _ _ _ _ _
  _ ≤ 6 * sqrt ε := by linarith
```

File: Mathlib/MeasureTheory/Integral/DominatedConvergence.lean [hunk 16]
```diff
@@ -153,6 +153,22 @@ lemma integral_tsum_of_summable_integral_norm {ι} [Countable ι] {F : ι → α
     ∑' i, (∫ a, F i a ∂μ) = ∫ a, (∑' i, F i a) ∂μ :=
   (hasSum_integral_of_summable_integral_norm hF_int hF_sum).tsum_eq
 
+/--
+Corollary of the Lebesgue dominated convergence theorem: If a sequence of functions `F n` is
+(eventually) uniformly bounded by a constant and converges (eventually) pointwise to a
+function `f`, then the integrals of `F n` with respect to a finite measure `μ` converge
+to the integral of `f`.
+-/
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Integral/DominatedConvergence.lean:161]:
```suggestion
/-- Corollary of the Lebesgue dominated convergence theorem: If a sequence of functions `F n` is
(eventually) uniformly bounded by a constant and converges (eventually) pointwise to a
function `f`, then the integrals of `F n` with respect to a finite measure `μ` converge
to the integral of `f`. -/
```

File: Mathlib/MeasureTheory/Integral/DominatedConvergence.lean [hunk 17]
```diff
@@ -153,6 +153,22 @@ lemma integral_tsum_of_summable_integral_norm {ι} [Countable ι] {F : ι → α
...
+theorem FiniteMeasure.tendstoIntegral_of_eventually_boundedPointwise [IsFiniteMeasure μ]
+    {F : ℕ → α → G} {f : α → G} (h_meas : ∀ᶠ (n : ℕ) in atTop, AEStronglyMeasurable (F n) μ)
+    (h_bound : ∃ C, ∀ᶠ (n : ℕ) in atTop, (∀ᵐ (ω : α) ∂μ, ‖F n ω‖ ≤ C))
+    (h_lim : ∀ᵐ (ω : α) ∂μ, Tendsto (fun (n : ℕ) => F n ω) atTop (nhds (f ω))) :
+    Tendsto (fun (n : ℕ) => ∫ (ω : α), F n ω ∂μ) atTop (nhds (∫ (ω : α), f ω ∂μ)) := by
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Integral/DominatedConvergence.lean:166]: You don't need to specify the type of everything, and could make it easier to read:
```suggestion
    (h_lim : ∀ᵐ ω ∂μ, Tendsto (fun n => F n ω) atTop (nhds (f ω))) :
    Tendsto (fun n => ∫ ω, F n ω ∂μ) atTop (nhds (∫ ω, f ω ∂μ)) := by
```

Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Integral/DominatedConvergence.lean:166]: Also please use the caligraphic N notation for `nhds`.

File: Mathlib/Topology/ContinuousMap/StoneWeierstrass.lean [hunk 18]
```diff
@@ -310,6 +310,43 @@ theorem exists_mem_subalgebra_near_continuous_of_separatesPoints (A : Subalgebra
   use g
   rwa [norm_lt_iff _ pos] at b
 
+-- Redefine `X`, since for the next theorem it need not be compact
+variable {X : Type*} [TopologicalSpace X]
```
Comment (RemyDegenne) [inline Mathlib/Topology/ContinuousMap/StoneWeierstrass.lean:314]: Since you use it in one theorem only, you could put that type in the theorem declaration instead of a `variable` line.

File: Mathlib/Topology/ContinuousMap/StoneWeierstrass.lean [hunk 19]
```diff
@@ -310,6 +310,43 @@ theorem exists_mem_subalgebra_near_continuous_of_separatesPoints (A : Subalgebra
...
+
+/--
+A variant of the Stone-Weierstrass theorem where `X` need not be compact:
+If `A` is a subalgebra of `C(X, ℝ)` which separates points, then, for any compact set `K ⊆ X`,
+every real-valued continuous function on `X` is within any `ε > 0` of some element of `A` on `K`.
+-/
```
Comment (RemyDegenne) [inline Mathlib/Topology/ContinuousMap/StoneWeierstrass.lean:320]:
```suggestion
/-- A variant of the Stone-Weierstrass theorem where `X` need not be compact:
If `A` is a subalgebra of `C(X, ℝ)` which separates points, then, for any compact set `K ⊆ X`,
every real-valued continuous function on `X` is within any `ε > 0` of some element of `A` on `K`. -/
```

**Review by RemyDegenne — COMMENTED** [review]
Here are a bunch of comments about style.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean (hunk 9 above)
Comment (JakobStiefel) [reply Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:45]: `fun_prop` works.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 20]
```diff
@@ -0,0 +1,252 @@
...
+
+variable {E : Type*} [TopologicalSpace E] [MeasurableSpace E] [BorelSpace E]
+    {P : Measure E} [IsFiniteMeasure P] {ε : ℝ}
+
+theorem integrable_mulExpNegMulSq_comp (f : C(E, ℝ)) (hε : 0 < ε) :
+    Integrable (fun x => mulExpNegMulSq ε (f x)) P := by
+    apply integrable P ⟨⟨fun x => mulExpNegMulSq ε (f x), by fun_prop⟩, ⟨2 * (sqrt ε)⁻¹, _⟩⟩
+    exact fun x y => dist_mulExpNegMulSq_le_two_mul_sqrt hε (f x) (f y)
+
+theorem integrable_mulExpNegMulSq_comp_restrict_compact {K : Set E} (hK : IsCompact K)
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:53]:
```suggestion
theorem integrable_mulExpNegMulSq_comp_restrict_of_isCompact {K : Set E} (hK : IsCompact K)
```
Since the name of the property is `IsCompact`, what should appear in the lemma name is `isCompact` (and not `compact`).

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 21]
```diff
@@ -0,0 +1,252 @@
...
+integral of `g`, as `ε → 0` from above. -/
+theorem tendsto_integral_mulExpNegMulSq_comp (g : E →ᵇ ℝ) :
+    Tendsto (fun ε => ∫ x, mulExpNegMulSq ε (g x) ∂P)
+    (nhdsWithin 0 (Set.Ioi 0)) (𝓝 (∫ x, g x ∂P)) := by
+  apply tendsto_of_seq_tendsto
+  intro u hu
+  obtain ⟨N, hupos⟩ := eventually_atTop.mp (tendsto_nhdsWithin_iff.mp hu).2
+  apply FiniteMeasure.tendstoIntegral_of_eventually_boundedPointwise ?h_meas ?h_bound ?h_lim
+  · apply Eventually.of_forall (fun n => StronglyMeasurable.aestronglyMeasurable
+      (Continuous.stronglyMeasurable (continuous_mulExpNegMulSq.comp g.continuous)))
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:68]:
```suggestion
  · exact Eventually.of_forall (fun n => g.continuous.mulExpNegMulSq.aestronglyMeasurable)
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 22]
```diff
@@ -0,0 +1,252 @@
...
+    apply Tendsto.const_mul (g x)
+    simp [mul_assoc, inv_mul_eq_div, ← neg_div]
+    exact tendsto_one_plus_div_pow_exp (-(ε * (g x * g x)))
+
+theorem integral_mulExpNegMulSq_comp_eq {P' : Measure E} [IsFiniteMeasure P']
+    {A : Subalgebra ℝ C(E, ℝ)} (hε : 0 < ε)
+    (hbound : ∀ g ∈ A, ∃ C, ∀ x y : E, dist (g x) (g y) ≤ C)
+    (heq : ∀ g ∈ A, ∫ x, (g : E → ℝ) x ∂P = ∫ x, (g : E → ℝ) x ∂P') {g : C(E, ℝ)} (hgA : g ∈ A) :
+    ∫ x, mulExpNegMulSq ε (g x) ∂P
+        = ∫ x, mulExpNegMulSq ε (g x) ∂P' := by
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:124]:
```suggestion
    ∫ x, mulExpNegMulSq ε (g x) ∂P = ∫ x, mulExpNegMulSq ε (g x) ∂P' := by
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 23]
```diff
@@ -0,0 +1,252 @@
...
+  -- collect the results needed in the decomposition at the end of the proof
+  have line1 : |∫ x, mulExpNegMulSq ε (f x) ∂P
+      - ∫ x in K, mulExpNegMulSq ε (f x) ∂P| < sqrt ε :=
+    abs_integral_sub_setIntegral_mulExpNegMulSq_comp_lt
+      f (IsClosed.measurableSet hKcl) hε hKPbound
+  have line3 : |∫ x in K, mulExpNegMulSq ε (g x) ∂P
+      - ∫ x, mulExpNegMulSq ε (g x) ∂P| < sqrt ε := by
+    rw [abs_sub_comm]
+    apply (abs_integral_sub_setIntegral_mulExpNegMulSq_comp_lt
+      g (IsClosed.measurableSet hKcl) hε hKPbound)
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:209]:
```suggestion
    exact (abs_integral_sub_setIntegral_mulExpNegMulSq_comp_lt
      g (IsClosed.measurableSet hKcl) hε hKPbound)
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 24]
```diff
@@ -0,0 +1,252 @@
...
+  have line5 : |∫ x, mulExpNegMulSq ε (g x) ∂P'
+      - ∫ x in K, mulExpNegMulSq ε (g x) ∂P'| < sqrt ε :=
+    (abs_integral_sub_setIntegral_mulExpNegMulSq_comp_lt
+      g (IsClosed.measurableSet hKcl) hε hKP'bound)
+  have line7 : |∫ x in K, mulExpNegMulSq ε (f x) ∂P'
+      - ∫ x, mulExpNegMulSq ε (f x) ∂P'| < sqrt ε := by
+    rw [abs_sub_comm]
+    apply (abs_integral_sub_setIntegral_mulExpNegMulSq_comp_lt
+      f (IsClosed.measurableSet hKcl) hε hKP'bound)
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:218]:
```suggestion
    exact (abs_integral_sub_setIntegral_mulExpNegMulSq_comp_lt
      f (IsClosed.measurableSet hKcl) hε hKP'bound)
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 25]
```diff
@@ -0,0 +1,252 @@
...
+      (IsClosed.measurableSet hKcl) f g hε hgapprox)
+    rw [mul_assoc]
+    apply mul_le_of_le_one_right (le_of_lt (sqrt_pos_of_pos hε))
+    apply inv_mul_le_one_of_le₀ (le_max_of_le_right _) (le_of_lt pos_of_measure)
+    exact (toReal_le_toReal (measure_ne_top P' _) (measure_ne_top P' _)).mpr
+        (measure_mono (Set.subset_univ _))
+  have line4 : |∫ x, mulExpNegMulSq ε (g x) ∂P
+      - ∫ x, mulExpNegMulSq ε (g x) ∂P'| = 0 := by
+    rw [abs_eq_zero, sub_eq_zero]
+    apply integral_mulExpNegMulSq_comp_eq hε hbound heq hgA
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:241]:
```suggestion
    exact integral_mulExpNegMulSq_comp_eq hε hbound heq hgA
```

File: Mathlib/MeasureTheory/Integral/DominatedConvergence.lean [hunk 26]
```diff
@@ -153,6 +153,20 @@ lemma integral_tsum_of_summable_integral_norm {ι} [Countable ι] {F : ι → α
...
+to the integral of `f`. -/
+theorem FiniteMeasure.tendstoIntegral_of_eventually_boundedPointwise [IsFiniteMeasure μ]
+    {F : ℕ → α → G} {f : α → G} (h_meas : ∀ᶠ n in atTop, AEStronglyMeasurable (F n) μ)
+    (h_bound : ∃ C, ∀ᶠ n in atTop, (∀ᵐ ω ∂μ, ‖F n ω‖ ≤ C))
+    (h_lim : ∀ᵐ ω ∂μ, Tendsto (fun n => F n ω) atTop (𝓝 (f ω))) :
+    Tendsto (fun n => ∫ ω, F n ω ∂μ) atTop (nhds (∫ ω, f ω ∂μ)) := by
+  cases' h_bound with c h_boundc
+  let C : α → ℝ := (fun _ => c)
+  apply tendsto_integral_filter_of_dominated_convergence
+      C h_meas h_boundc (integrable_const c) h_lim
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Integral/DominatedConvergence.lean:168]:
```suggestion
  exact tendsto_integral_filter_of_dominated_convergence
    C h_meas h_boundc (integrable_const c) h_lim
```

File: Mathlib/MeasureTheory/Integral/DominatedConvergence.lean [hunk 27]
```diff
@@ -153,6 +153,20 @@ lemma integral_tsum_of_summable_integral_norm {ι} [Countable ι] {F : ι → α
     ∑' i, (∫ a, F i a ∂μ) = ∫ a, (∑' i, F i a) ∂μ :=
   (hasSum_integral_of_summable_integral_norm hF_int hF_sum).tsum_eq
 
+/-- Corollary of the Lebesgue dominated convergence theorem: If a sequence of functions `F n` is
+(eventually) uniformly bounded by a constant and converges (eventually) pointwise to a
+function `f`, then the integrals of `F n` with respect to a finite measure `μ` converge
+to the integral of `f`. -/
+theorem FiniteMeasure.tendstoIntegral_of_eventually_boundedPointwise [IsFiniteMeasure μ]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Integral/DominatedConvergence.lean:160]: That name is strange. Why is it in the `FiniteMeasure` namespace?
Also `tendstoIntegral` should be `tendsto_integral`.

This lemma is `tendsto_integral_of_dominated_convergence` with a constant `bound` argument, right (up to an eventually vs forall in some hypothesis)? How about the name `tendsto_integral_of_norm_le_const`?

Could you also write a version of this for a general filter, which would be the corollary of `tendsto_integral_filter_of_dominated_convergence` for a constant bound? Then you could specialize it again to get the current lemma.

File: Mathlib/MeasureTheory/Measure/FiniteMeasure.lean [hunk 28]
```diff
@@ -274,15 +274,29 @@ theorem restrict_nonzero_iff (μ : FiniteMeasure Ω) (A : Set Ω) : μ.restrict
...
     {μ ν : FiniteMeasure Ω} (h : ∀ (f : Ω →ᵇ ℝ≥0), ∫⁻ x, f x ∂μ = ∫⁻ x, f x ∂ν) :
     μ = ν := by
   apply Subtype.ext
   change (μ : Measure Ω) = (ν : Measure Ω)
   exact ext_of_forall_lintegral_eq_of_IsFiniteMeasure h
 
+/-- Two finite Borel measures are equal if the integrals of all bounded continuous functions with
+respect to both agree. -/
+theorem ext_of_forall_integral_eq [HasOuterApproxClosed Ω] [BorelSpace Ω]
+    {P P' : FiniteMeasure Ω} (h : ∀ (f : Ω →ᵇ ℝ), ∫ x, f x ∂P = ∫ x, f x ∂P') :
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/FiniteMeasure.lean:289]: Measures are called `μ ν` in that file. Could you use the same names for this lemma?

File: Mathlib/MeasureTheory/Measure/FiniteMeasure.lean [hunk 29]
```diff
@@ -274,15 +274,29 @@ theorem restrict_nonzero_iff (μ : FiniteMeasure Ω) (A : Set Ω) : μ.restrict
...
+    P = P' := by
+  apply ext_of_forall_lintegral_eq
+  intro f
+  apply (ENNReal.toReal_eq_toReal_iff' (ne_of_lt (lintegral_lt_top_of_nnreal P f))
+      (ne_of_lt (lintegral_lt_top_of_nnreal P' f))).mp
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/FiniteMeasure.lean:294]:
```suggestion
  apply (ENNReal.toReal_eq_toReal_iff' (lintegral_lt_top_of_nnreal P f).ne
      (lintegral_lt_top_of_nnreal P' f).ne).mp
```

File: Mathlib/Topology/ContinuousMap/StoneWeierstrass.lean [hunk 30]
```diff
@@ -310,6 +310,38 @@ theorem exists_mem_subalgebra_near_continuous_of_separatesPoints (A : Subalgebra
   use g
   rwa [norm_lt_iff _ pos] at b
 
+/-- A variant of the Stone-Weierstrass theorem where `X` need not be compact:
+If `A` is a subalgebra of `C(X, ℝ)` which separates points, then, for any compact set `K ⊆ X`,
+every real-valued continuous function on `X` is within any `ε > 0` of some element of `A` on `K`. -/
+theorem exists_mem_subalgebra_near_continuous_on_compact_of_separatesPoints
+    {X : Type*} [TopologicalSpace X] {A : Subalgebra ℝ C(X, ℝ)} (hA : A.SeparatesPoints)
+    (f : C(X, ℝ)) {K : Set X} (hK : IsCompact K) {ε : ℝ} (pos : 0 < ε) :
+    ∃ g ∈ A, (∀ x ∈ K, ‖(g : X → ℝ) x - f x‖ < ε) := by
```
Comment (RemyDegenne) [inline Mathlib/Topology/ContinuousMap/StoneWeierstrass.lean:319]:
```suggestion
    ∃ g ∈ A, ∀ x ∈ K, ‖(g : X → ℝ) x - f x‖ < ε := by
```

File: Mathlib/Topology/ContinuousMap/StoneWeierstrass.lean [hunk 31]
```diff
@@ -310,6 +310,38 @@ theorem exists_mem_subalgebra_near_continuous_of_separatesPoints (A : Subalgebra
   use g
   rwa [norm_lt_iff _ pos] at b
 
+/-- A variant of the Stone-Weierstrass theorem where `X` need not be compact:
+If `A` is a subalgebra of `C(X, ℝ)` which separates points, then, for any compact set `K ⊆ X`,
+every real-valued continuous function on `X` is within any `ε > 0` of some element of `A` on `K`. -/
+theorem exists_mem_subalgebra_near_continuous_on_compact_of_separatesPoints
```
Comment (RemyDegenne) [inline Mathlib/Topology/ContinuousMap/StoneWeierstrass.lean:316]:
```suggestion
theorem exists_mem_subalgebra_near_continuous_of_isCompact_of_separatesPoints
```

File: Mathlib/Topology/ContinuousMap/StoneWeierstrass.lean [hunk 32]
```diff
@@ -310,6 +310,38 @@ theorem exists_mem_subalgebra_near_continuous_of_separatesPoints (A : Subalgebra
...
+    simp only [Set.mem_image, SetLike.mem_coe, exists_exists_and_eq_and]
+    use restrict_on_K g
+    refine ⟨Subalgebra.mem_map.mpr ?_,
+      by simpa only [compStarAlgHom'_apply, comp_apply, coe_mk, ne_eq, restrict_on_K, hg2]⟩
+    use g, hg1
+    simp [AlgHom.coe_coe]
+  obtain ⟨⟨gK, hgKAK⟩, hgapprox⟩ :=
+      @ContinuousMap.exists_mem_subalgebra_near_continuous_of_separatesPoints _ _
+      (isCompact_iff_compactSpace.mp hK) AK hsep (K.restrict f)
+      (ContinuousOn.restrict (Continuous.continuousOn f.continuous)) ε pos
```
Comment (RemyDegenne) [inline Mathlib/Topology/ContinuousMap/StoneWeierstrass.lean:336]:
```suggestion
    @ContinuousMap.exists_mem_subalgebra_near_continuous_of_separatesPoints _ _
    (isCompact_iff_compactSpace.mp hK) AK hsep (K.restrict f)
    (ContinuousOn.restrict (Continuous.continuousOn f.continuous)) ε pos
```

File: Mathlib/MeasureTheory/Measure/FiniteMeasure.lean [hunk 33]
```diff
@@ -274,15 +274,29 @@ theorem restrict_nonzero_iff (μ : FiniteMeasure Ω) (A : Set Ω) : μ.restrict
...
+  rw [toReal_lintegral_coe_eq_integral f P, toReal_lintegral_coe_eq_integral f P']
+  exact h ⟨⟨fun x => (f x).toReal, Continuous.comp' NNReal.continuous_coe f.continuous⟩,
+      f.map_bounded'⟩
+
+
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/FiniteMeasure.lean:299]:
```suggestion
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 34]
```diff
@@ -0,0 +1,252 @@
...
+
+theorem abs_setIntegral_mulExpNegMulSq_comp_sub_le_mul_measure {K : Set E} (hK : IsCompact K)
+    (hKmeas : MeasurableSet K) (f g : C(E, ℝ)) {δ : ℝ} (hε : 0 < ε)
+    {P : Measure E} [hP : IsFiniteMeasure P] (hfg : ∀ x ∈ K, |g x - f x| < δ) :
+    |∫ x in K, mulExpNegMulSq ε (g x) ∂P - ∫ x in K, mulExpNegMulSq ε (f x) ∂P|
+      ≤ δ * (P K).toReal := by
+  rw [← (integral_sub (integrable_mulExpNegMulSq_comp_restrict_compact hK hKmeas g)
+      (integrable_mulExpNegMulSq_comp_restrict_compact hK hKmeas f))]
+  apply norm_setIntegral_le_of_norm_le_const (hK.measure_lt_top)
+    (fun x hxK => le_trans (dist_mulExpNegMulSq_le_dist hε) (le_of_lt (hfg x hxK)))
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:154]:
```suggestion
    (fun x hxK => le_trans (dist_mulExpNegMulSq_le_dist hε) (hfg x hxK).le)
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 35]
```diff
@@ -0,0 +1,252 @@
...
+  exact toReal_lt_of_lt_ofReal hKP
+
+theorem abs_setIntegral_mulExpNegMulSq_comp_sub_le_mul_measure {K : Set E} (hK : IsCompact K)
+    (hKmeas : MeasurableSet K) (f g : C(E, ℝ)) {δ : ℝ} (hε : 0 < ε)
+    {P : Measure E} [hP : IsFiniteMeasure P] (hfg : ∀ x ∈ K, |g x - f x| < δ) :
+    |∫ x in K, mulExpNegMulSq ε (g x) ∂P - ∫ x in K, mulExpNegMulSq ε (f x) ∂P|
+      ≤ δ * (P K).toReal := by
+  rw [← (integral_sub (integrable_mulExpNegMulSq_comp_restrict_compact hK hKmeas g)
+      (integrable_mulExpNegMulSq_comp_restrict_compact hK hKmeas f))]
+  apply norm_setIntegral_le_of_norm_le_const (hK.measure_lt_top)
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:153]:
```suggestion
  apply norm_setIntegral_le_of_norm_le_const hK.measure_lt_top
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 36]
```diff
@@ -0,0 +1,252 @@
...
+    - ∫ x in K, mulExpNegMulSq ε (f x) ∂P| < sqrt ε := by
+  apply lt_of_le_of_lt (norm_integral_sub_setIntegral_le
+    (Eventually.of_forall (fun _ => abs_mulExpNegMulSq_le hε)) hK
+    (integrable_mulExpNegMulSq_comp f hε))
+  rw [mul_inv_lt_iff₀ (sqrt_pos_of_pos hε), mul_self_sqrt (le_of_lt hε)]
+  exact toReal_lt_of_lt_ofReal hKP
+
+theorem abs_setIntegral_mulExpNegMulSq_comp_sub_le_mul_measure {K : Set E} (hK : IsCompact K)
+    (hKmeas : MeasurableSet K) (f g : C(E, ℝ)) {δ : ℝ} (hε : 0 < ε)
+    {P : Measure E} [hP : IsFiniteMeasure P] (hfg : ∀ x ∈ K, |g x - f x| < δ) :
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:148]:
```suggestion
    (hfg : ∀ x ∈ K, |g x - f x| < δ) :
```
There is already a finite measure P in a variable line somewhere above, right? (and I think you don't use the name `hP`)

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 37]
```diff
@@ -0,0 +1,252 @@
...
+  · exact Eventually.of_forall (fun _ => (tendsto_nhdsWithin_of_tendsto_nhds
+        tendsto_mulExpNegMulSq).comp hu)
+
+/--
+The integral of `mulExpNegMulSq ε ∘ g` with respect to a finite measure `P` can be
+approximated by the integral of the sequence approximating the exponential function.
+-/
+theorem tendsto_integral_one_plus_inv_mul (g : E →ᵇ ℝ) (hε : 0 < ε) :
+    Tendsto (fun (n : ℕ) => ∫ x, (g * (1 + (n : ℝ)⁻¹ • -(ε • g * g)) ^ n) x ∂ P)
+    atTop (𝓝 (∫ x, mulExpNegMulSq ε (g x) ∂ P)) := by
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:84]:
```suggestion
    Tendsto (fun (n : ℕ) => ∫ x, (g * (1 + (n : ℝ)⁻¹ • -(ε • g * g)) ^ n) x ∂P)
    atTop (𝓝 (∫ x, mulExpNegMulSq ε (g x) ∂P)) := by
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 38]
```diff
@@ -0,0 +1,252 @@
...
+    |∫ x in K, mulExpNegMulSq ε (g x) ∂P - ∫ x in K, mulExpNegMulSq ε (f x) ∂P|
+      ≤ δ * (P K).toReal := by
+  rw [← (integral_sub (integrable_mulExpNegMulSq_comp_restrict_compact hK hKmeas g)
+      (integrable_mulExpNegMulSq_comp_restrict_compact hK hKmeas f))]
+  apply norm_setIntegral_le_of_norm_le_const (hK.measure_lt_top)
+    (fun x hxK => le_trans (dist_mulExpNegMulSq_le_dist hε) (le_of_lt (hfg x hxK)))
+    (StronglyMeasurable.aestronglyMeasurable (Continuous.stronglyMeasurable
+    (Continuous.sub g.continuous.mulExpNegMulSq f.continuous.mulExpNegMulSq)))
+
+variable {E: Type*} [MeasurableSpace E] [PseudoEMetricSpace E] [BorelSpace E] [CompleteSpace E]
```
[the remark this answers is not in the document]
Comment (RemyDegenne) [reply Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:158]: Should all those assumptions on E be replaced by `StandardBorelSpace E`?

**Review by RemyDegenne — COMMENTED** [review]
I don't have much to say about the mathematical content of the PR, which looks good. But here is another round of comments, again mostly about style and names.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean (hunk 38 above)
[the remark this answers is not in the document]
Comment (JakobStiefel) [reply Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:158]: > Should all those assumptions on E be replaced by `StandardBorelSpace E`?

We would lose some generality, as `StandardBorelSpace E` assumes a metric instead of a pseudometric

File: Mathlib/MeasureTheory/Integral/DominatedConvergence.lean (hunk 27 above)
Comment (JakobStiefel) [reply Mathlib/MeasureTheory/Integral/DominatedConvergence.lean:160]: Actually, with a general filter instead of `atTop`, statement and proof are the same. I replaced this lemma by `tendsto_integral_filter_of_norm_le_const`.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 39]
```diff
@@ -0,0 +1,252 @@
...
+    exact Eventually.of_forall
+      (fun _ => abs_mulExpNegMulSq_comp_le_norm g (le_of_lt (Set.mem_Ioi.mp (hupos n hn))))
+  · exact Eventually.of_forall (fun _ => (tendsto_nhdsWithin_of_tendsto_nhds
+        tendsto_mulExpNegMulSq).comp hu)
+
+/--
+The integral of `mulExpNegMulSq ε ∘ g` with respect to a finite measure `P` can be
+approximated by the integral of the sequence approximating the exponential function.
+-/
+theorem tendsto_integral_one_plus_inv_mul (g : E →ᵇ ℝ) (hε : 0 < ε) :
```
[the remark this answers is not in the document]
Comment (JakobStiefel) [reply Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:82]: I agree. I renamed it `tendsto_integral_mul_one_plus_inv_mul_sq`, which captures the expression in the intergral better and is more similar to `mulExpNegMulSq`.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 40]
```diff
@@ -0,0 +1,247 @@
...
+    intro n hn
+    exact Eventually.of_forall
+      (fun _ => abs_mulExpNegMulSq_comp_le_norm g (le_of_lt (Set.mem_Ioi.mp (hupos n hn))))
+  · exact Eventually.of_forall (fun _ => (tendsto_nhdsWithin_of_tendsto_nhds
+        tendsto_mulExpNegMulSq).comp hu)
+
+/-- The integral of `mulExpNegMulSq ε ∘ g` with respect to a finite measure `P` can be
+approximated by the integral of the sequence approximating the exponential function. -/
+theorem tendsto_integral_mul_one_plus_inv_mul_sq (g : E →ᵇ ℝ) (hε : 0 < ε) :
+    Tendsto (fun (n : ℕ) => ∫ x, (g * (1 + (n : ℝ)⁻¹ • -(ε • g * g)) ^ n) x ∂ P)
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:79]: There is no `mul` in the second term of the integral, but a `smul`. Also I would add a `pow` in there.
```suggestion
theorem tendsto_integral_mul_one_plus_inv_smul_pow_sq (g : E →ᵇ ℝ) (hε : 0 < ε) :
    Tendsto (fun (n : ℕ) => ∫ x, (g * (1 + (n : ℝ)⁻¹ • -(ε • g * g)) ^ n) x ∂P)
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 41]
```diff
@@ -0,0 +1,247 @@
...
+  have limP : Tendsto (fun n : ℕ => ∫ x, (g * (1 + (n : ℝ)⁻¹ • -(ε • g * g)) ^ n) x ∂P) atTop
+      (𝓝 (∫ x, mulExpNegMulSq ε (g x) ∂P')) := by
+    rw [funext fun n => heq _ (one_plus_inv_mul_mem n)]
+    exact tendsto_integral_mul_one_plus_inv_mul_sq (mkOfBound g C h) hε
+  apply tendsto_nhds_unique (tendsto_integral_mul_one_plus_inv_mul_sq (mkOfBound g C h) hε) limP
+
+theorem abs_integral_sub_setIntegral_mulExpNegMulSq_comp_lt (f : C(E, ℝ))
+    {K : Set E} (hK : MeasurableSet K) (hε : 0 < ε) (hKP : P Kᶜ < ε.toNNReal) :
+    |∫ x, mulExpNegMulSq ε (f x) ∂P
+    - ∫ x in K, mulExpNegMulSq ε (f x) ∂P| < sqrt ε := by
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:134]: Does that fit in a line?
```suggestion
    |∫ x, mulExpNegMulSq ε (f x) ∂P - ∫ x in K, mulExpNegMulSq ε (f x) ∂P| < sqrt ε := by
```

File: Mathlib/MeasureTheory/Measure/FiniteMeasure.lean (hunk 33 above)
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/FiniteMeasure.lean:299]:
```suggestion
```

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors d+
